US03962227
To a solution of 439 mg. (0.93 mmole) of p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate in 4.4 ml. of DMF cooled in an ice bath was added dropwise 118 mg. (0.07 ml., 0.93 mmole) of oxalyl chloride. The reaction mixture was allowed to stand for 4 hours at room temperature and was then poured into a mixture of aqueous 5% hydrochloric acid and ethyl acetate. The organic layer was separated and was washed sequentially with 5% hydrochloric acid, water and a saturated solution of sodium chloride. The washed layer was dried and evaporated to dryness to yield the reaction product, p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-chloro-3-cephem-4-carboxylate as an amorphous solid. The product was obtained crystalline by triturating the amorphous residue with ether. Yield 350 mg. The infrared spectrum and NMR spectrum of the crystalline product were consistent with the spectra of authentic material.

reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate | 0.93 mmole | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H17N3O7S2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.93 mmole, 0.07 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-chloro-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16ClN3O6S2
